### PR TITLE
[Merged by Bors] - feat(Algebra/Module/Injective) : If $M$ is an injective $R$-module in some universe, it is also injective in higher universes

### PR DESCRIPTION
**Pull request by jjaassoonn**
This is because injective modules are Baer, and Baer modules do not concern universe levels

---

- [x] depends on: #8998 [Shrink instances]

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Module/Injective.lean [hunk 1]
```diff
@@ -39,7 +39,7 @@ import Mathlib.Algebra.Module.ULift
 
 noncomputable section
 
-universe u v
+universe u v v'
 
 variable (R : Type u) [Ring R] (Q : TypeMax.{v,u}) [AddCommGroup Q] [Module R Q]
```
Comment (alreadydone) [inline Mathlib/Algebra/Module/Injective.lean:44]: I think there's no reason `Q` can't be in an arbitrary universe; the test objects `X` and `Y` need to be in the universe of `R` (or higher, but Module.Baer is purely in the universe of `R`), but `Q` need not be. This seems to have [made it hard to use](https://leanprover.zulipchat.com/#narrow/stream/116395-maths/topic/Universe.20trouble.20when.20using.20.60.60.60Module.2EInjective.60.60.60/near/403006687). Can you address this issue as well?

It's an interesting question to ponder whether it suffices to use test objects in the same universe as `Q`; I haven't been able to come up with counterexamples or proof.

Comment (jjaassoonn) [reply Mathlib/Algebra/Module/Injective.lean]: For the universe problem, I tried 3 things

1. Test object in higher universe:
```lean
class Module.Injective : Prop where
  out : ∀ ⦃X Y : Type max u v⦄ [AddCommGroup X] [AddCommGroup Y] [Module R X] [Module R Y]
    (f : X →ₗ[R] Y) (_ : Function.Injective f) (g : X →ₗ[R] Q),
    ∃ h : Y →ₗ[R] Q, ∀ x, h (f x) = g x
```

```lean
theorem Module.injective_object_of_injective_module [inj : Module.Injective R Q] :
    CategoryTheory.Injective (ModuleCat.of R Q) where
  factors {X Y} g f m := by
    let f' : ULift.{max u v} X →ₗ[R] ULift.{max u v} Y :=
      ULift.moduleEquiv.symm.toLinearMap ∘ₗ f ∘ₗ ULift.moduleEquiv.toLinearMap
    have hf' : Function.Injective f' := ULift.up_injective.comp <|
      (ModuleCat.mono_iff_injective _).mp m |>.comp ULift.down_injective
    let g' : ULift.{max u v} X →ₗ[R] Q := g ∘ₗ ULift.moduleEquiv.toLinearMap
    obtain ⟨l, h⟩ := inj.out f' hf' g'
    exact ⟨l ∘ₗ ULift.moduleEquiv.symm.toLinearMap, LinearMap.ext fun x ↦ by aesop⟩
```
is doable by playing with `ULift.moduleEquiv`, but
```lean
theorem Module.injective_module_of_injective_object
    [inj : CategoryTheory.Injective <| ModuleCat.of R Q] :
    Module.Injective R Q where
  out X Y _ _ _ _ f hf g := by
    have H := @CategoryTheory.Injective.factors (self := inj)
    sorry
```
seems not to be possible because `X, Y` are in universe `max u v` but `H` want universe modules to be in universe `v`


2. `Q, X, Y` all in the same universe

```lean
class Module.Injective : Prop where
  out : ∀ ⦃X Y : Type v⦄ [AddCommGroup X] [AddCommGroup Y] [Module R X] [Module R Y]
    (f : X →ₗ[R] Y) (_ : Function.Injective f) (g : X →ₗ[R] Q),
    ∃ h : Y →ₗ[R] Q, ∀ x, h (f x) = g x
```
is fine up until `Module.Baer.of_injective` because ideals are in universe `u` and can't be easily transferred to `v`.

3. use `[UnivLE.{u, v}]` to solve the problem in the second approach, now we can `Shrink I` to make an object in universe `v`, but I don't think it can be shown easily, if at all, that `Shrink I ≃ₗ[R] I`

Comment (alreadydone) [reply Mathlib/Algebra/Module/Injective.lean]: I think your solution 1 is probably the best for now; you can have a version of `Module.injective_module_of_injective_object` that uses `ULift Q` and another version that requires `Q : TypeMax`.

Comment (jjaassoonn) [reply Mathlib/Algebra/Module/Injective.lean]: In [9e067bb](https://github.com/leanprover-community/mathlib4/pull/8905/commits/9e067bb375f91e015774651c4f725f89b5956be5), I made a version of solution 3, it is actually quite smooth. Does this change your preference of solution 1?

Comment (alreadydone) [reply Mathlib/Algebra/Module/Injective.lean]: It doesn't build yet? Is it really solution 3, I don't see any UnivLE in it?

Comment (jjaassoonn) [reply Mathlib/Algebra/Module/Injective.lean]: I forgot to push and quoted the wrong commit. The correct one is [10a89bc](https://github.com/leanprover-community/mathlib4/pull/8905/commits/10a89bc7b4794ae0a4ccb210f31c1f3ea7bbcb82) :laughing:

Comment (jjaassoonn) [reply Mathlib/Algebra/Module/Injective.lean]: The full version using `UnivLE` is in [0ce04e6](https://github.com/leanprover-community/mathlib4/pull/8905/commits/0ce04e69b49037aea05fa7b13dff8d6d70237deb)

File: Mathlib/Algebra/Module/Injective.lean [hunk 2]
```diff
@@ -56,35 +59,33 @@ map to `Q`, i.e. in the following diagram, if `f` is injective then there is an
   ```
 -/
 class Module.Injective : Prop where
-  out : ∀ (X Y : TypeMax.{v,u}) [AddCommGroup X] [AddCommGroup Y] [Module R X] [Module R Y]
+  out : ∀ ⦃X Y : Type v⦄ [AddCommGroup X] [AddCommGroup Y] [Module R X] [Module R Y]
     (f : X →ₗ[R] Y) (_ : Function.Injective f) (g : X →ₗ[R] Q),
     ∃ h : Y →ₗ[R] Q, ∀ x, h (f x) = g x
 #align module.injective Module.Injective
 
 -- Porting note: egregious max u v abuse
```
Comment (riccardobrasca) [inline Mathlib/Algebra/Module/Injective.lean:67]: This can now be removed.

File: Mathlib/Algebra/Module/Injective.lean [hunk 3]
```diff
@@ -465,13 +464,69 @@ protected theorem injective (h : Module.Baer R Q) : Module.Injective R Q :=
 set_option linter.uppercaseLean3 false in
 #align module.Baer.injective Module.Baer.injective
 
-protected theorem of_injective (inj : Module.Injective R Q) : Module.Baer R Q := fun I g ↦
-  let ⟨g', hg'⟩ := inj.1 (ULift.{max u v} I) (ULift.{max u v} R)
-    (ULift.moduleEquiv.symm.toLinearMap ∘ₗ I.subtype ∘ₗ ULift.moduleEquiv.toLinearMap)
-    (fun a b h ↦ by aesop) (g ∘ₗ ULift.moduleEquiv.toLinearMap)
-  ⟨g' ∘ₗ ULift.moduleEquiv.symm.toLinearMap, by aesop⟩
+protected theorem of_injective (inj : Module.Injective R Q) : Module.Baer R Q := by
+  intro I g
```
Comment (kbuzzard) [inline Mathlib/Algebra/Module/Injective.lean:468]: This proof has got a lot longer, and isn't UnivLE supposed to make things easier? What's going on here?

Comment (jjaassoonn) [reply Mathlib/Algebra/Module/Injective.lean:468]: `UnivLE` make proof easier in the sense that less universe variable need to be made explicit. The length is longer because of `I` can't be lifted using `ULift` any more but need to use `Shrink I` whose instances needs to be manually introduced via injection `I \equiv Shrink I`

File: Mathlib/Algebra/Module/Injective.lean [hunk 4]
```diff
@@ -465,13 +464,69 @@ protected theorem injective (h : Module.Baer R Q) : Module.Injective R Q :=
...
+    Module.Injective R M := by
+  letI : UnivLE.{u, max v' v} := UnivLE.trans.{v, u, max v' v}
+  rw [← Module.Baer.iff_injective.{u, max v v'}] at inj
+  rw [← Module.Baer.iff_injective.{u, v}]
+  intro I g
+  obtain ⟨g', hg'⟩ := inj I (ULift.moduleEquiv.symm.toLinearMap ∘ₗ g)
+  exact ⟨ULift.moduleEquiv.toLinearMap ∘ₗ g', fun r hr ↦ ULift.ext_iff _ _ |>.mp <| hg' r hr⟩
+
+lemma Module.injective_iff_ulift_injective
+    (M : Type max v) [AddCommGroup M] [Module R M] :
```
Comment (alreadydone) [inline Mathlib/Algebra/Module/Injective.lean]: `max v`?

File: Mathlib/Algebra/Module/Injective.lean (hunk 3 above)
Comment (jjaassoonn) [reply Mathlib/Algebra/Module/Injective.lean:468]: See this problem

File: Mathlib/Algebra/Module/Injective.lean (hunk 1 above)
Comment (jjaassoonn) [reply Mathlib/Algebra/Module/Injective.lean]: I really think `Module.injective_module_iff_injective_object` being a provable statement without lifting `Q` should be a consideration when assessing what the correct `Module.Injective` version should be.

File: Mathlib/Algebra/Module/Injective.lean (hunk 3 above)
Comment (alreadydone) [reply Mathlib/Algebra/Module/Injective.lean:468]: I think you can put AddCommGroup and Module structures on `Shrink I` just like [ULift.module](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Module/ULift.html#ULift.module) and then construct a LinearEquiv between `I` and `Shrink I` in parallel to [ULift.moduleEquiv](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Module/ULift.html#ULift.moduleEquiv), which you can then compose with the linear maps involved here.

It's unfortunate that we have to duplicate the ULift API; if [lean4#2297](https://github.com/leanprover/lean4/pull/2297) could be solved we wouldn't need to open the UnivLE business ... (if you want to see it happen please upvote)

File: Mathlib/Algebra/Module/Injective.lean [hunk 5]
```diff
@@ -465,13 +464,69 @@ protected theorem injective (h : Module.Baer R Q) : Module.Injective R Q :=
...
-  ⟨Module.Baer.injective, Module.Baer.of_injective⟩
+  ⟨Module.Baer.injective, Module.Baer.of_injective.{u, v}⟩
 
 end Module.Baer
+
+
+section ULift
+
+lemma Module.ulift_injective_of_injective
+    {M : Type v} [AddCommGroup M] [Module R M] (inj : Module.Injective.{u, v} R M) :
```
Comment (alreadydone) [inline Mathlib/Algebra/Module/Injective.lean:498]: `variable {M : Type v} [AddCommGroup M] [Module R M]` could be extracted from this and the following.

File: Mathlib/Algebra/Module/Injective.lean (hunk 4 above)
Comment (jjaassoonn) [reply Mathlib/Algebra/Module/Injective.lean]: This is a typo, I didn't know Lean allows this

File: Mathlib/Algebra/Module/Injective.lean (hunk 5 above)
Comment (jjaassoonn) [reply Mathlib/Algebra/Module/Injective.lean]: done

File: Mathlib/Algebra/Module/Injective.lean (hunk 3 above)
Comment (jjaassoonn) [reply Mathlib/Algebra/Module/Injective.lean:468]: I did this in [634f566](https://github.com/leanprover-community/mathlib4/pull/8905/commits/634f56646d69d5e68a4b821f9430167479b05786), but I think this should be a separate PR

Comment (jjaassoonn) [reply Mathlib/Algebra/Module/Injective.lean:467]: #8998

Comment (jjaassoonn) [reply Mathlib/Algebra/Module/Injective.lean:467]: Now the proof of this lemma is about the same size!

File: Mathlib/Algebra/Module/Injective.lean [hunk 6]
```diff
@@ -56,35 +57,32 @@ map to `Q`, i.e. in the following diagram, if `f` is injective then there is an
   ```
 -/
 class Module.Injective : Prop where
-  out : ∀ (X Y : TypeMax.{v,u}) [AddCommGroup X] [AddCommGroup Y] [Module R X] [Module R Y]
+  out : ∀ ⦃X Y : Type v⦄ [AddCommGroup X] [AddCommGroup Y] [Module R X] [Module R Y]
     (f : X →ₗ[R] Y) (_ : Function.Injective f) (g : X →ₗ[R] Q),
     ∃ h : Y →ₗ[R] Q, ∀ x, h (f x) = g x
```
Comment (alreadydone) [inline Mathlib/Algebra/Module/Injective.lean:62]: I have concerns about this aberration from the design of Module.Projective. There we use a test object in a higher universe (a free module generated by elements of the module): the advantage is we get the lifting property in arbitrary universes [Module.projective_lifting_property](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Module/Projective.html#Module.projective_lifting_property), but the cost is that [IsProjective.iff_projective](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Category/ModuleCat/Projective.html#IsProjective.iff_projective) (what a weird name!) only holds in module universes no lower than the ring.

Your [solution 1](https://github.com/leanprover-community/mathlib4/pull/8905#discussion_r1421608548) would be conforming to a similar design. But now you're adopting a definition of Module.Injective that uses only test objects in the same universe, so you only have the extension property in the same universe but not the higher universes, but the good thing is that [Module.injective_iff_injective_object](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Module/Injective.html#Module.injective_iff_injective_object) holds in any universe. (By the way, it's probably more convenient to state the fully universe-polymorphic extension property assuming Module.Baer (), which will be easier to use than Category.Injective of the ULifts.)

I think the Projective design is reasonable because people are probably most interested in the full lifting property rather than the version restricted to one universe, but I can't say your choice is definitely worse. Of course, if we could prove the extension property in the same universe implies the fully-polymorphic one, we won't need to worry about this. I have some ideas about this: firstly `I → Q` in the Baer condition can be replaced by an injective linear map `I/ker → Q`, so that `#(I/ker) ≤ #Q`, but it's not necessary that `#(R/ker) ≤ #Q`. Secondly maybe we can somehow "replace" `R` by `R/ann(Q)` where `ann(Q)` is the two sided ideal that sends every element of Q to 0, but I can't quite obtain an injective linear map `I/J → R/ann(Q)` such that `I → Q` factors through `I/J`; that requires `I ⊓ ann(Q) ≤ J` and `J ≤ ker` but we only have `ann(Q) * I ≤ ker`. Thirdly I'm now looking into injective hulls, and hopefully something has been said about their cardinalities.

File: Mathlib/Algebra/Module/Injective.lean [hunk 7]
```diff
@@ -96,7 +94,7 @@ set_option linter.uppercaseLean3 false in
 
 namespace Module.Baer
 
-variable {R Q} {M N : Type max u v} [AddCommGroup M] [AddCommGroup N]
+variable {R Q} {M N : Type v} [AddCommGroup M] [AddCommGroup N]
```
Comment (alreadydone) [inline Mathlib/Algebra/Module/Injective.lean:97]: I think the proofs should just work, but let me know if not.
```suggestion
variable {R Q} {M N : Type*} [AddCommGroup M] [AddCommGroup N]
```

File: Mathlib/Algebra/Module/Injective.lean (hunk 1 above)
Comment (alreadydone) [reply Mathlib/Algebra/Module/Injective.lean]: I agree! See https://github.com/leanprover-community/mathlib4/pull/8905#discussion_r1428509361 for some ideas.

File: Mathlib/Algebra/Module/Injective.lean (hunk 6 above)
Comment (jjaassoonn) [reply Mathlib/Algebra/Module/Injective.lean:62]:
```lean

universe uR uM uP uP'

variable [UnivLE.{uR, uM}]
variable (R : Type uR) [Ring R]
variable (M : Type uM) [AddCommGroup M] [Module R M] [inj : Module.Injective R M]
variable (P : Type uP) [AddCommGroup P] [Module R P]
variable (P' : Type uP') [AddCommGroup P'] [Module R P']

lemma Module.Injective.lifting_property
    (f : P →ₗ[R] P') (hf : Function.Injective f)
    (g : P →ₗ[R] M) : ∃ h : P' →ₗ[R] M, h ∘ₗ f = g := by
  have inj' : Module.Injective R (ULift.{max uM uP uP'} M) :=
    Module.ulift_injective_of_injective.{uR, uM, max uM uP uP'} R inj
  obtain ⟨h, H⟩ := inj'.out
    (ULift.moduleEquiv.symm.toLinearMap ∘ₗ f ∘ₗ ULift.moduleEquiv.toLinearMap :
      ULift.{max uM uP uP'} P →ₗ[R] ULift.{max uM uP uP'} P')
    (ULift.moduleEquiv.symm.injective.comp (hf.comp ULift.moduleEquiv.injective))
    (ULift.moduleEquiv.symm.toLinearMap ∘ₗ g ∘ₗ ULift.moduleEquiv.toLinearMap)
  refine ⟨ULift.moduleEquiv.toLinearMap ∘ₗ h ∘ₗ ULift.moduleEquiv.symm.toLinearMap, ?_⟩
  ext x
  specialize H (ULift.up x)
  simp only [LinearMap.coe_comp, LinearEquiv.coe_coe, Function.comp_apply, ULift.moduleEquiv_apply,
    ULift.moduleEquiv_symm_apply] at H ⊢
  rw [H]
```
This is the best result in terms of universe polymorphism I can get using `UnivLE`

File: Mathlib/Algebra/Module/Injective.lean (hunk 7 above)
Comment (jjaassoonn) [reply Mathlib/Algebra/Module/Injective.lean]: This works Thanks

File: Mathlib/Algebra/Module/Injective.lean (hunk 6 above)
Comment (jjaassoonn) [reply Mathlib/Algebra/Module/Injective.lean:60]: I didn't quite follow your proof, which linear map are we taking `ker`

Comment (alreadydone) [reply Mathlib/Algebra/Module/Injective.lean:60]: Yeah that's what I have in mind. But it should be called extension_property not lifting. Also, you could prove Module.Baer.extension_property without UnivLE.

Comment (jjaassoonn) [reply Mathlib/Algebra/Module/Injective.lean:60]: `Module.Baer.extension_property` has been added (fully universally polymorphic, maybe like you suggested, `Module.Baer` should be the definitoin of `Module.Injective`

Comment (alreadydone) [reply Mathlib/Algebra/Module/Injective.lean:60]: That's great!

> I didn't quite follow your proof, which linear map are we taking ker

Just saw this. I mean the kernel of I → Q. You can replace `I → R` by `I/ker → R/ker` but you don't have info about the cardinality of `R/ker`.

Anyway I'm now convinced whether we can test Q with objects in the same universe is equivalent to whether Q's R-injective hull (or rather its cardinality) lies in the same universe. So I really need to look into the construction of injective hulls ... (On the dual side, a projective cover may not exist, but a flat cover always does!)

File: Mathlib/Algebra/Module/Injective.lean [hunk 8]
```diff
@@ -446,32 +442,105 @@ theorem extensionOfMax_to_submodule_eq_top (h : Module.Baer R Q) :
...
+  letI : UnivLE.{u, max v' v} := UnivLE.trans.{v, u, max v' v}
+  rw [← Module.Baer.iff_injective.{u, v}] at inj
+  rw [← Module.Baer.iff_injective.{u, max v' v}]
+  intro I g
+  obtain ⟨g', hg'⟩ := inj I (ULift.moduleEquiv.toLinearMap ∘ₗ g)
+  exact ⟨ULift.moduleEquiv.symm.toLinearMap ∘ₗ g', fun r hr ↦ ULift.ext _ _ <| hg' r hr⟩
+
+lemma Module.injective_of_ulift_injective
+    (inj : Module.Injective R (ULift.{max v v'} M)) :
+    Module.Injective R M := by
```
Comment (alreadydone) [inline Mathlib/Algebra/Module/Injective.lean:495]: These should say `Ulift.{v}` instead of `ULift.{max v v'}`, and the second doesn't require UnivLE. See [my branch](https://github.com/leanprover-community/mathlib4/compare/zjj/liftInjectiveModules...jyxu/liftInjectiveModules?expand=1).

File: Mathlib/Algebra/Module/Injective.lean [hunk 9]
```diff
@@ -446,32 +442,105 @@ theorem extensionOfMax_to_submodule_eq_top (h : Module.Baer R Q) :
...
+
+variable [UnivLE.{uR, uM}]
+variable (R : Type uR) [Ring R]
+variable (M : Type uM) [AddCommGroup M] [Module R M] [inj : Module.Injective R M]
+variable (P : Type uP) [AddCommGroup P] [Module R P]
+variable (P' : Type uP') [AddCommGroup P'] [Module R P']
+
+lemma Module.Injective.extension_property
+    (f : P →ₗ[R] P') (hf : Function.Injective f)
+    (g : P →ₗ[R] M) : ∃ h : P' →ₗ[R] M, h ∘ₗ f = g := by
```
Comment (alreadydone) [inline Mathlib/Algebra/Module/Injective.lean:531]: This is golfed via Module.Baer in my branch.

**Review by alreadydone — APPROVED** [review]
I think we can merge this now. I added `extension_property_addMonoidHom` and `Module.Baer.of_divisible` in my branch which will be helpful for #10767.

File: Mathlib/Algebra/Module/Injective.lean (hunk 9 above)
Comment (jjaassoonn) [reply Mathlib/Algebra/Module/Injective.lean]: Thanks for all the golfing

**Review by alreadydone — APPROVED** [review]
Thanks!
maintainer merge

File: Mathlib/Algebra/Module/Injective.lean (hunk 6 above)
Comment (alreadydone) [reply Mathlib/Algebra/Module/Injective.lean:60]: Update: I'm almost sure that being an injective module in a universe lower than the ring's universe doesn't imply being injective in the ring's universe (equivalently, Module.Baer). For details, see [this comment](https://github.com/leanprover-community/mathlib4/pull/9120/files#r1509525127).
